US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(3-fluoro-4-propoxyphenyl)imidazolidin-2-one
The compound was further synthesized starting from 5-aminobenzimidazole (0.806 g, 6.1 mmol), 3-fluoro-4-propoxybenzaldehyde (1.0 g, 5.5 mmol), TMSCN (0.69 mL, 5.5 mmol), PdC (10%, 0.02 g), TEA 1.44 mL, 10.3 mmol), di-(imidazol-1-yl)methanone (0.92 g, 5.6 mmol) as described in method 2.

reactant | 5-aminobenzimidazole | 6.1 mmol, 0.806 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 3-fluoro-4-propoxybenzaldehyde | 5.5 mmol, 1.0 g | FC=1C=C(C=O)C=CC1OCCC | C10H11FO2
reactant | TMSCN | 5.5 mmol, 0.69 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 5.6 mmol, 0.92 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(3-fluoro-4-propoxyphenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC(=C(C=C2)OCCC)F)=O | C19H19FN4O2
